2106-10-18 09:20:00 Physician Resident Progress Note
Chief Complaint: right sided weakness, dysarthria
   24 Hour Events:
   TPA 15:00 at [**Hospital 1991**] transferred to [**Hospital1 1**] for further management. started
   on ativan prn for possible withdrawal, banana bag. worsening aphasia,
   head CT to r/o bleed s/p TPA.
   History obtained from Patient, Family / [**Hospital 380**] Medical records
   Allergies:
   History obtained from Patient, Family / [**Hospital 380**] Medical [**Name2 (NI) 1992**] Known
   Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Neurologic: No(t) Numbness / tingling, mild confusion, dysarthria/worse
   aphasia, R facial droop
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2106-10-18**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 61 (61 - 72) bpm
   BP: 127/70(82) {114/70(81) - 165/94(112)} mmHg
   RR: 12 (10 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,228 mL
                                                                  1,008 mL
   PO:
             TF:
   IVF:
                                                                    228 mL
                                                                  1,008 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                    615 mL
   Urine:
                                                                    250 mL
                                                                    615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    978 mL
                                                                    393 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no M/R/G
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Purposeful, Tone: Normal, mild R facial droop, naming [**12-10**],
   tongue deviated to R
   Labs / Radiology
   404 K/uL
   12.8 g/dL
   130
   1.1 mg/dL
   24 mEq/L
   3.8 mEq/L
   16 mg/dL
   98 mEq/L
   132 mEq/L
   34.7 %
   6.4 K/uL
        [image002.jpg]
                             [**2106-10-17**]  08:50 PM
                            [**2106-10-18**]  03:23 AM
                            [**2106-10-18**]  08:00 AM
   WBC
   6.7
   6.4
   Hct
   34.8
   34.7
   Plt
   396
   404
   Cr
   1.1
   1.1
   Glucose
   92
   120
   130
   Other labs: PT / PTT / INR:13.9/29.7/1.2, Ca++:9.8 mg/dL, Mg++:2.0
   mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 ALCOHOL ABUSE
 CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 DYSPHAGIA
   ASSESSMENT AND PLAN:  53M s/p CVA s/p TPA w/ non-focal exam
   NEUROLOGIC:  ativan PRN for ETOH withdrawal, f/u final read of CT,
   autoregualte BP
   Neuro checks Q:1hr
   Pain:  controlled
   CARDIOVASCULAR:  cont lisinopril, HD stable
   PULMONARY:  stable
   GI / ABD:  stable
   NUTRITION: will begin cardiac diet pending s/s eval
   RENAL: stable
   HEMATOLOGY: s/p tpa, avoid blood draws if possible until 15:00 [**10-18**]
   ENDOCRINE:  RISS
   ID:  stable
   LINES/TUBES/DRAINS: PIV
   WOUNDS:
   IMAGING: f/u CT results from [**10-17**]
   FLUIDS:  banana bag
   CONSULTS:  neurology
   BILLING DIAGNOSIS:
   ICU CARE:
   GLYCEMIC CONTROL:  RISS
   PROPHYLAXIS:
   DVT - boots, s/p TPA
   STRESS ULCER - famotidine
   VAP BUNDLE -
   COMMUNICATIONS:
   ICU Consent:  will obtain
   CODE STATUS:  full
   DISPOSITION:  transfer to floors
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   18 Gauge - [**2106-10-17**] 09:10 PM
   20 Gauge - [**2106-10-17**] 09:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU